US04918074
In a mixture of 50 ml of acetone, 30 ml of methanol and 20 ml of water is dissolved 1.8 g of 5-[3-(2-methyl-1,3-dioxolan-2-yl)phenyl]-6-methoxycarbonyl-7-methyl-5,8-dihydroimidazo[1,2-a]pyrimidine. The mixture is adjusted to pH 1 with p-toluenesulfonic acid and then heated at 60° C. for 3 hours. The solvent is distilled off and the residue is neutralized with sodium bicarbonate solution. The resulting white precipitations are collected by filtration and recrystallized from a mixture of ethanol and acetone to give 1.1 g of 5-(3-acetylphenyl)-6-methoxycarbonyl-7-methyl-5,8-dihydroimidazo[1,2-a]pyrimidine, melting at 227°-229° C.

reactant | methanol | 30 ml | CO | CH4O
reactant | water | 20 ml | O | H2O
reactant | 5-[3-(2-methyl-1,3-dioxolan-2-yl)phenyl]-6-methoxycarbonyl-7-methyl-5,8-dihydroimidazo[1,2-a]pyrimidine | 1.8 g | CC1(OCCO1)C=1C=C(C=CC1)C1C(=C(NC=2N1C=CN2)C)C(=O)OC | C19H21N3O4
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 5-(3-acetylphenyl)-6-methoxycarbonyl-7-methyl-5,8-dihydroimidazo[1,2-a]pyrimidine | 1.1 g | C(C)(=O)C=1C=C(C=CC1)C1C(=C(NC=2N1C=CN2)C)C(=O)OC | C17H17N3O3
